US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxy-1-pentenyl)phenyl]benzamide (150 mg) in ethanol (10 ml) was shaken under hydrogen atmosphere (3 atm.) in the presence of 10% palladium on carbon (50 mg) for 4 hours. The catalyst was filtered off and the filtrate was evaporated in vacuo and the residue was subjected to silica gel column (29% methanol in chloroform) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxypentyl)phenyl]benzamide (150 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxy-1-pentenyl)phenyl]benzamide | 150 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C=CCCCC(=O)O)C)C=C1 | C34H32N2O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-carboxypentyl)phenyl]benzamide | 150 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)CCCCCC(=O)O)C)C=C1 | C34H34N2O4
